US07851473B2
(2) Bis(2,2,2-trichloroethyl) imidazo[1,2-b]pyridazin-6-ylimidodicarbonate
To a solution of imidazo[1,2-b]pyridazine-6-amine (1.00 g, 7.45 mmol) and 4-dimethylaminopyridine (2.73 g, 22.4 mmol) in tetrahydrofuran (75 ml) was added 2,2,2-trichloroethyl chloroformate (3.09 ml, 22.4 mmol) with ice-cooling, and the mixture was stirred at 60° C. for 15 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was added to the residue, and a solid was collected by filtration to give 1.92 g (53.1%) of the desired product.

reactant | imidazo[1,2-b]pyridazine-6-amine | 7.45 mmol, 1.00 g | N=1C=CN2N=C(C=CC21)N | C6H6N4
reactant | 2,2,2-trichloroethyl chloroformate | 22.4 mmol, 3.09 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
catalyst | 4-dimethylaminopyridine | 22.4 mmol, 2.73 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Bis(2,2,2-trichloroethyl) imidazo[1,2-b]pyridazin-6-ylimidodicarbonate | 1.92 g, 53.1% | N=1C=CN2N=C(C=CC21)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C12H8Cl6N4O4
